US08133882B2
13 g of diethyl {(E)-2-[7-(cyclohexylamino)-1-(1-ethylpropyl)-6-fluoro-4-oxo-1,4-dihydroquinolin-3-yl]vinyl}phosphonate was dissolved in 150 ml of chloroform, and 27.2 ml of bromotrimethylsilane was added, followed by overnight stirring at room temperature. Ethanol was added to the reaction mixture, followed by concentration under a reduced pressure. Aqueous 1 M sodium hydroxide solution and ether were added to the resulting residue to carry out layer separation operation. Concentrated hydrochloric acid was added to the aqueous layer, followed by stirring at room temperature for 2 hours. Then, the insoluble materials were collected by filtration and washed with water to obtain 10.32 g of {(E)-2-[7-(cyclohexylamino)-1-(1-ethylpropyl)-6-fluoro-4-oxo-1,4-dihydroquinolin-3-yl]vinyl}phosphonic acid.

reactant | diethyl {(E)-2-[7-(cyclohexylamino)-1-(1-ethylpropyl)-6-fluoro-4-oxo-1,4-dihydroquinolin-3-yl]vinyl}phosphonate | 13 g | C1(CCCCC1)NC1=C(C=C2C(C(=CN(C2=C1)C(CC)CC)/C=C/P(OCC)(OCC)=O)=O)F | C26H38FN2O4P
reactant | bromotrimethylsilane | 27.2 ml | Br[Si](C)(C)C | C3H9BrSi
reactant | Ethanol | C(C)O | C2H6O
solvent | chloroform | 150 ml | C(Cl)(Cl)Cl | CHCl3
product | {(E)-2-[7-(cyclohexylamino)-1-(1-ethylpropyl)-6-fluoro-4-oxo-1,4-dihydroquinolin-3-yl]vinyl}phosphonic acid | 10.32 g | C1(CCCCC1)NC1=C(C=C2C(C(=CN(C2=C1)C(CC)CC)/C=C/P(O)(O)=O)=O)F | C22H30FN2O4P
